US05239080
To a solution of 4-(4-chlorophenyl)-2-oxazolepropionic acid (0.4 g) in THF (20 ml) were added triethylamine (0.33 ml) and ethyl chlorocarbonate (0.23 ml) at -30° C., followed by stirring for 30 minutes at the same temperature. The mixture was poured into 30% methylamine aqueous solution (10 ml), and the resultant was stirred for 15 minutes at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over MgSO4 and concentrated to obtain crystals of N-methyl-4-(4-chlorophenyl)-2-oxazolepropionamide (0.375 g, 89%). Recrystallization from dichloromethane-ethanol gave colorless prism crystals of mp 169°-170° C.

reactant | 4-(4-chlorophenyl)-2-oxazolepropionic acid | 0.4 g | ClC1=CC=C(C=C1)C=1N=C(OC1)CCC(=O)O | C12H10ClNO3
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 0.23 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | methylamine | 10 ml | CN | CH5N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-methyl-4-(4-chlorophenyl)-2-oxazolepropionamide | 0.375 g, 89% | CNC(CCC=1OC=C(N1)C1=CC=C(C=C1)Cl)=O | C13H13ClN2O2
